US07138414B2
e) 1-(2-chloro-4-fluorobenzoyl)-3-(2-methoxy-4-(5-methoxy-2-oxo-3H-[1,3,4]-oxadiazol-3-yl)phenyl)urea
The solution of equivalent amounts of 2-chloro-4-fluorobenzoyl isocyanate in acetonitrile was added dropwise to the solution of 0.39 g of 5-methoxy-3-(4-amino-3-methoxyphenyl)-3H-[1,3,4]oxadiazol-2-one hydrochloride and 0.2 ml of triethylamine in 5 ml of acetonitrile and the mixture is stirred at room temperature overnight. The solid formed was filtered off with suction and dried under reduced pressure.

reactant | 2-chloro-4-fluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=CC(=C1)F | C8H3ClFNO2
reactant | 5-methoxy-3-(4-amino-3-methoxyphenyl)-3H-[1,3,4]oxadiazol-2-one hydrochloride | 0.39 g | Cl.COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N)OC
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-(2-chloro-4-fluorobenzoyl)-3-(2-methoxy-4-(5-methoxy-2-oxo-3H-[1,3,4]-oxadiazol-3-yl)phenyl)urea | ClC1=C(C(=O)NC(=O)NC2=C(C=C(C=C2)N2C(OC(=N2)OC)=O)OC)C=CC(=C1)F | C18H14ClFN4O6
